US07365193B2
(2R)-1-Boc-2-(methanesulfonyloxymethyl)azetidine
A mixture of (2R)-1-Boc-2-(hydroxymethyl)azetidine (1.5 g, 8.0 mmol; see Tetrahedron Asym. 1998, 9, 2791) and triethylamine (3.5 g, 35 mmol; Spectrum) in dry THF (20 mL) was cooled to 0° C., and methanesulfonyl chloride (0.75 mL, 9.7 mmol; Aldrich) was added slowly with stirring. The reaction mixture was allowed to warm to room temperature and stir for 1 hour, then the solid was removed by filtration and the organic phase was concentrated. The residue was dissolved in dichloromethane (40 mL), washed with water (20 mL), and then concentrated to afford the title compound (800 mg, 3.0 mmol; 38% yield). MS (DCl/NH3): 266 (M+1)+, 283 (M+18)+.

reactant | (2R)-1-Boc-2-(hydroxymethyl)azetidine | 8.0 mmol, 1.5 g | C(=O)(OC(C)(C)C)N1[C@H](CC1)CO | C9H17NO3
reactant | triethylamine | 35 mmol, 3.5 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.7 mmol, 0.75 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2R)-1-Boc-2-(methanesulfonyloxymethyl)azetidine | 3.0 mmol, 800 mg, 38% yield | C(=O)(OC(C)(C)C)N1[C@H](CC1)COS(=O)(=O)C | C10H19NO5S
